US04232024
from ethyl 8-chloro-4-oxo-4H-pyrimido[2,1-b]benzthiazole-3-carboxylate, via 1-(2-mercapto-4-chlorophenyl)-5-carboxypyrimidine-2,6-dione, 7-chloro-1-oxo-1H-pyrimido-[6,1-b]benzthiazole-4-carboxylic acid (yield 60% of theory; m.p. 264°-265° C.).

reactant | ethyl 8-chloro-4-oxo-4H-pyrimido[2,1-b]benzthiazole-3-carboxylate | ClC1=CC2=C(N3C(S2)=NC=C(C3=O)C(=O)OCC)C=C1 | C13H9ClN2O3S
reactant | 1-(2-mercapto-4-chlorophenyl)-5-carboxypyrimidine-2,6-dione | SC1=C(C=CC(=C1)Cl)N1C(NC=C(C1=O)C(=O)O)=O | C11H7ClN2O4S
product | 7-chloro-1-oxo-1H-pyrimido-[6,1-b]benzthiazole-4-carboxylic acid | yield 60% | ClC1=CC2=C(N3C(S2)=C(C=NC3=O)C(=O)O)C=C1 | C11H5ClN2O3S
